datasets/10k__Tet_Int.csv
SMILES Labelled
"[O:10]([K])C([H])C([H])C(O)C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C(O)C([H])C([H])[O+:10]1([K]) 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[NH]2.CC[O:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.CC[NH:10][H] 21=20;20,10=10"
"[O-:10]C(CCC)C(C)C(O)C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C(O)C(C)C(CCC)[O:10]1 10=20;20,21=21"
"C[O:10][H].C[NH+:21]=[C:20]([O][H])[NH]CC.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]C)([O][H])[NH]CC 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)[H])[H])C)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C)C1=CC=CC=C1 10=20;20,21=21"
"[NH:10]([H])C(C)C([H])C(C)C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(C)C([H])C(C)[NH+:10]1([H]) 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)C)CC)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)C)CC)C1=CC=CC=C1 10=20;20,21=21"
"CC[O:10][H].[H][NH+:21]=[C:20]([NH][H])[O][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21][H])([NH][H])[O][H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(CC)C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(CC)C([H])[NH]1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H][S:10]C(C)C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC 10=20;20,21=21"
"[H][NH+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH]C([H])C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)[H])CC>>[H]C1C(C(O[C:20](=[O:10])N1[H])[H])CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][S:10]C(C)C(C)C(C)[O][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)C(C)[O]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C([O-:21])[H])C1=CC=CC=C1)[H]>>CN([C:20]1(OC(C([O:21]1)[H])C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C(C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C)C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(CC)[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[O+:10]([Li])[C:21]([O-:20])(OC)O[H]>>[O:20]=[C:21](OC)O[H].CC[O:10][Li] 20=21;21,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"[H][S:10]C(CC)C([H])C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(CC)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[OH:21][C:20]1(C)C([H])=C([H])C([H])C([H])[OH+:10]1>>[OH:10]C([H])C([H])/C([H])=C([H])\[C:20](C)=[OH+:21] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([S]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([S]C)[S]C7=CC=CC=C7 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)CC)CCCCCC)C>>[H]N([C:20]1(OC(C(C([O:21]1)CC)CC)CCCCCC)[O-:10])C 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].CC[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]CC 21=20;20,10=10"
"[H][O:10]C(C)C(C)C([H])[O][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O]C([H])C(CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C([H])C(CC)[NH]2.[H][O:10][H] 21=20;20,10=10"
"C[O:10][CH:20]([I:21])C1=CC=CC=C1>>C[O+:10]=[CH:20]C1=CC=CC=C1.[I-:21] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C)C)[H].[O-:21]C>>CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]C)C)[H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C(C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(C)C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
